US06500863B1
N-(tert-butyl)-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (2.0 g, 6.88 mmol), tert-butylamine (503 mg, 6.88mmol) and triethylamine(l.43 mL, 10.32 mmol) were reacted to form the desired product (1.67 g, 75%). 1H NMR (MeOD-d4): δ 7.91 (d, 1H), 7.78 (d, 1H), 1.25 (s, 9H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 6.88 mmol, 2.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | tert-butylamine | 6.88mmol, 503 mg | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 10.32 mmol, 43 mL | C(C)N(CC)CC | C6H15N
product | N-(tert-butyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 1.67 g, 75% | C(C)(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C10H12Cl2N2O4S
